Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: ERCP with removal of obstructing gallstone, stent 
placement, and brushings sent for cytology.

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history noted below who presents as a transfer from ___ for evaluation of his obstructive LFTs.  The
patient reports that he has had 2 weeks of epigastric 
discomfort.
He reports that it is a diffuse abdominal unsettled feeling that
he is unable to describe further.  He denies any nausea or
vomiting the night associated with it.  He ultimately went to
___ approximately a week and a half ago where 
he
was evaluated.  He reports that at that time his labs were 
normal
and he was thought to have a viral gastroenteritis.  He reports
that the discomfort stated about the same and then approximately
4 days prior to admission after eating a large plate of macaroni
with sauce meatballs and sausage as well as lemon cake bars he
developed sudden onset epigastric abdominal pain worse in the
right upper quadrant.  He reports the pain was severe at times. 
He reports that over the last 4 days that he has had a
significant amount of pain in the area.  He reports that it 
comes
and goes.  He is uncertain if is associated.  He does not think
the pain radiates anywhere.  He has never had any pain like this
before.  He ultimately went to see his outpatient provider Dr
___ in ___ who felt like the pain 
may
be associated with biliary obstruction.  He underwent a right
upper quadrant ultrasound which was concerning for an 
obstructive
pattern with biliary dilation.  He was sent to ___ where his labs were noted in an obstructive pattern and
his biliary dilation was confirmed at 1.1cm.  At that point he
was transferred to ___ for
evaluation of possible ERCP.

In the emergency department he was seen and evaluated.  His
initial vital signs were unremarkable.  He was afebrile with a
blood pressure in the 120s-140s and heart rates in the ___. 
His white blood cell count was 5.4.  His ALT 230, AST 145, alk
phos 536, total bilirubin 11.3, lipase 48.  Chem-7 was
unremarkable with a creatinine of 0.8.  His lactate was 1.9.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
 - Hypertension
 - Coronary artery disease status post coronary stents ___ years 
ago
 - Prostate cancer status post surgery followed by radiation
followed by hormonal therapy.  He reports that his PSA is
elevated at approximately 13 despite this therapy
 
Social History:
___
Family History:
The patient is unaware of any conditions that run
in his family.  We specifically addressed whether there are any
pancreatic or biliary processes in the family which he is 
unaware
of.
 
Physical Exam:
Admission Exam:
VITALS: 97.6 PO 130 / 77 56 18 96 Ra 
GENERAL: Alert and in no apparent distress, laying in bed
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in the 
right
upper quadrant.  Negative ___ sign.  Bowel sounds present.  
No
HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect

Discharge exam:
VITALS: Tmax 97.6, HR ___, BP 130s-150s/77, RR ___, SpO2
93-96% on RA
GENERAL: Alert and in no apparent distress
EYES: Icteric, pupils equally round
ENT: Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no m/r/g.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
MSK: Moves all extremities, strength grossly full and symmetric
bilaterally in all limbs
SKIN: Jaundiced
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission Labs:
___ 02:25AM BLOOD WBC-5.4 RBC-4.31* Hgb-13.5* Hct-40.9 
MCV-95 MCH-31.3 MCHC-33.0 RDW-14.9 RDWSD-52.2* Plt ___
___ 02:25AM BLOOD Glucose-106* UreaN-16 Creat-0.8 Na-143 
K-3.8 Cl-104 HCO3-22 AnGap-17
___ 02:25AM BLOOD ALT-230* AST-145* AlkPhos-536* 
TotBili-11.3*
___ 02:45PM BLOOD CEA-1.4

Discharge Labs:
___ 07:10AM BLOOD WBC-5.5 RBC-3.89* Hgb-12.4* Hct-37.2* 
MCV-96 MCH-31.9 MCHC-33.3 RDW-15.8* RDWSD-55.7* Plt ___
___ 07:10AM BLOOD Glucose-113* UreaN-8 Creat-0.6 Na-143 
K-3.7 Cl-103 HCO3-29 AnGap-11
___ 07:10AM BLOOD ALT-154* AST-75* AlkPhos-369* 
TotBili-3.8*
___: 508  H

Micro:
BCx (___): pending
UCx (___): MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES),
CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION. 

Imaging:
ERCP report, ___:
Impression: 
•The scout film was normal.  
•Given a large j-shaped stomach, the patient was placed in left
lateral position with abdominal pressure to facilitate passing 
of
the scope into the duodenum.  
•The bile duct was deeply cannulated with the sphincterotome.  
•Contrast was injected and there was brisk flow through the
ducts.  
•Contrast extended to the entire biliary tree.  
•The CBD was 9 mm in diameter.  
•One filling defect consistent with a stone was identified in 
the
distal CBD as well as an 8 mm in length, 2 mm in diameter, mid
CHD stricture. Opacification of the gallbladder was incomplete.  

•The left and right hepatic ducts and all intrahepatic branches
had mild post obstructure dilation.  
•A biliary sphincterotomy was made with a sphincterotome.  
•There was no post-sphincterotomy bleeding.  
•The biliary tree was swept with an 8.5mm balloon starting at 
the
bifurcation.  
•One stone was successfully removed.  
•The CBD and CHD were swept repeatedly until no further stones
were seen.  
•A biliary cytology brush was used at the CHD stricture.  
•A ___ x 9cm biliary plastic straight stent was placed across 
the
stricture.  
•The final occlusion cholangiogram showed no evidence of filling
defects in the CBD.  
•Excellent bile and contrast drainage was seen endoscopically 
and
fluoroscopically.  
•Otherwise normal ercp to third part of the duodenum
Recommendations: 
•Return to ward for on going care. 
•NPO overnight with aggressive IV hydration with LR at 200 cc/hr 

•If no abdominal pain in the morning, advance diet to clear
liquids and then advance as tolerated 
•No Plavix, NSAIDS, Coumadin for 5 days. 
•Follow up with cytology reports. Please call Dr. ___ ___ in 10 days for the pathology results 
•Repeat ERCP in 4 weeks for stent pull and re-evaluation. 
•CT pancreas protocol given biliary stricture and CA ___ and 
CEA

CT pancreas protocol (___):
IMPRESSION: 
1. Post sphincterotomy and common bile duct stent placement with
resolution of 
right intrahepatic biliary ductal dilatation.  Pneumobilia of 
the
left 
intrahepatic biliary ducts. 
2. Assessment of the common hepatic duct identified region of
stricture is 
limited given the presence of the stent. 
3. No suspicious pancreatic masses. 
4. Cholelithiasis. 
5. Prominent 9 mm periportal lymph nodes, nonspecific.  
Attention
on follow-up imaging. 
 
Brief Hospital Course:
___ yo M with HTN, CAD s/p stents, and prostate cancer s/p
prostatectomy, radiation, and hormonal therapy who presented to
his PCP ___ 2 weeks of epigastric discomfort and was found to
have biliary dilatation on RUQ US and was referred to ___ where he was found to have obstructive 
pattern
LFTs and confirmed biliary dilatation on RUQ US. He was
transferred to ___ for ERCP and was found to have an
obstructing stone in the CBD s/p successful clearance as well as
a mid-CHD stricture s/p sphinchterotomy and plastic stent
placement with brushings sent for cytology.

ACUTE/ACTIVE PROBLEMS:
# Choledocolithiasis
# CBD stricture
Patient presented with onset of right upper quadrant pain 
following eating approximately 4 days prior to admission.  His 
LFTs were elevated in an obstructive pattern.  His right upper 
quadrant ultrasound showed a 1.___ile duct. He 
had an ERCP on ___ with removal of gallstone, placement of 
plastic biliary stent over CBD stent, and CBD brushings sent for 
cytology (report above).
CBD stricture is concerning for malignancy. CT pancreas protocol 
showed no evidence of pancreatic malignancy, but did show some 
prominent periportal lymph nodes of uncertain significance.
GI will follow up the cytology from the CBD brushings. They will 
plan to see him in 4 weeks for follow up and removal of plastic 
biliary stent.

# Hypertension
His home atenolol was held prior to ERCP due to HRs in the ___ 
before administering atenolol. Later in the evening, his heart 
rate climbed in to the 150s. He spontaneously converted back in 
to NSR prior to further evaluation, but his atenolol was resumed 
that evening without further issues. 

# Coronary artery disease status post stenting
Patient reports multiple stents placed approximately ___ years 
ago.  He reports
taking only intermittent aspirin. His aspirin was initially held 
prior to ERCP, but resumed on discharge. 

# Prostate cancer
Status post prostatectomy followed by radiation followed by 
hormonal therapy.  Per the patient recent PSA was 13. Prominent 
periportal lymph nodes on CT abd also concerning for malignancy. 
He has an appointment with his outpatient Urologist, Dr. ___ 
___ at ___, on ___.

Transitional issues:
# Prominent lymph nodes on CT abdomen
CT pancreas protocol did not show evidence of pancreatic
malignancy but did show "Prominent 9 mm periportal lymph nodes,
nonspecific." 
# Cytology from CBD brushings is pending (GI will follow up)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Loratadine 10 mg PO DAILY 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atenolol 50 mg PO DAILY  
3.  Loratadine 10 mg PO DAILY  
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
 - Choledocolithiasis
 - Common bile duct stricture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted to the hospital for biliary obstruction from a 
gallstone and a stricture of the common bile duct. You had an 
ERCP during which they removed the gallstone, placed a common 
bile duct stent, and took brushings (cells sent for pathology) 
to check for cancer. You had a CT scan that did not show 
evidence of pancreatic cancer but it did show some possibly 
enlarged lymph nodes. Given that your PSA has recently been 
elevated, it will be important for you to follow up with your 
urologist (Dr. ___ as planned next week.
You should also follow up with the ERCP team to have the stent 
removed in 4 weeks. They will also call you with the results of 
the "brushings" or cells that were sampled for pathology during 
the ERCP.
Best of luck in your recovery,
Your ___ Team
 
Followup Instructions:
___